US06107036
7-Hydroxy-2,2-dimethyl-benzofuran-3-one
7-Hydroxy-2,3-dihydro-2,2-dimethylbenzofurane is dissolved in 100 ml pyridine. 0.5 mol benzoyl chloride is added dropwise at 0° C. within 4 h. Subsequently it is stirred for 10 h at room temperature. It is poured onto 200 ml ice water and aspirated. The residue is washed with 500 ml 2 M hydrochloric acid and then with 1000 ml water and dried in air. A solution of 0.906 mol chromium trioxide in 370 ml glacial acetic acid is added dropwise to a solution of this crude product (0.45 mol) in 600 ml glacial acetic acid in such a way that the temperature of the mixture does not exceed 20° C. After the dropwise addition is completed it is stirred for a further 1 hour at 40° C. and subsequently poured onto 2 l water. It is suction filtered. The residue is washed with 1 l water and recrystallized from ethanol/water 3:1. The benzoyl compound is fed into 400 ml 10% ethanolic potassium hydroxide solution and the mixture is heated for 1 hour to 70° C. It is admixed with 3 l water and suction filtered. The residue is recrystallized from 2 l water.

reactant | 7-Hydroxy-2,3-dihydro-2,2-dimethylbenzofurane | OC1=CC=CC=2CC(OC21)(C)C | C10H12O2
reactant | benzoyl chloride | 0.5 mol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 2 l | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 370 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 0.906 mol | [O-2].[O-2].[O-2].[Cr+6]
product | 7-Hydroxy-2,2-dimethyl-benzofuran-3-one | OC1=CC=CC=2C(C(OC21)(C)C)=O | C10H10O3
